US07230001B1
N-[(2-aminocarbonylaminophenyl)methyl]-N-(1,1-dimethylethoxy-carbonyl)-1-(phenylmethyl)-4-piperidineamine
2.0 g (0.03 mol) of sodium cyanate were added to a solution of 7.91 g (0.02 mol) of N-[(2-aminophenyl)methyl]-N-(1,1-dimethylethoxycarbonyl)-1-(phenylmethyl)-4-piperidineamine in a mixture of 5.5 ml glacial acetic acid and 80 ml of water and the mixture was stirred overnight at ambient temperature. The mixture was made slightly alkaline by the addition of saturated sodium hydrogen carbonate solution, then extracted exhaustively with EE. The combined ethyl acetate extracts were washed with water, dried over sodium sulphate and concentrated by evaporation in vacuo. 8.7 g (99% of theoretical) of colourless crystals were obtained, Rf 0.71 (El D), which were further processed without any additional purification.

reactant | sodium cyanate | 0.03 mol, 2.0 g | [O-]C#N.[Na+]
reactant | N-[(2-aminophenyl)methyl]-N-(1,1-dimethylethoxycarbonyl)-1-(phenylmethyl)-4-piperidineamine | 0.02 mol, 7.91 g | NC1=C(C=CC=C1)CN(C1CCN(CC1)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H33N3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 5.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 80 ml | O | H2O
product | N-[(2-aminocarbonylaminophenyl)methyl]-N-(1,1-dimethylethoxy-carbonyl)-1-(phenylmethyl)-4-piperidineamine | NC(=O)NC1=C(C=CC=C1)CN(C1CCN(CC1)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H34N4O3
